US07538123B2
(2) 6-Hydroxy-3,4-dihydronaphthalen-1(2H)-one
3.69 g of 6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one was dissolved in 70 ml of anhydrous methylene chloride. The obtained solution was cooled in a dry ice-acetone bath. Thereafter, 36 ml of boron tribromide (a 1.0 M methylene chloride solution) was added thereto, and the obtained mixture was stirred at room temperature overnight. Thereafter, the reaction solution was again cooled in a dry ice-acetone bath. 36 ml of boron tribromide (a 1.0 M methylene chloride solution) was added thereto, and the obtained mixture was stirred at room temperature overnight. Thereafter, the reaction solution was poured into ice, and chloroform was then added thereto. An insoluble precipitate was removed by filtration. The organic layer was separated and then dried over anhydrous sodium sulfate. The obtained solution was passed through a glass filter filled with silica gel, and the solvent was removed under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 1.52 g of the subject compound.

reactant | 6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 3.69 g | COC=1C=C2CCC(C(C2=CC1)=O)(C)C | C13H16O2
reactant | boron tribromide | 36 ml | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 36 ml | B(Br)(Br)Br | BBr3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 M | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 M | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-3,4-dihydronaphthalen-1(2H)-one | 1.52 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
